US08022062B2
4-Bromo-N-cyclohexyl-2-fluoro-benzamide:
Dissolve 4-bromo-2-fluoro-benzoyl chloride (1 g, 4.21 mmol) in DCM and cool the solution in an ice bath. Add triethylamine (0.87 mL, 6.32 mmol) and cyclohexylamine (502 mg, 5.1 mmol) and stir the mixture at ambient temperature for 2 h. Partition the reaction mixture between brine and DCM. Dry the organic layer over Na2SO4, filter and concentrate in vacuo to give the desired intermediate as a white solid (1.24 g, 98%).

reactant | 4-bromo-2-fluoro-benzoyl chloride | 4.21 mmol, 1 g | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
reactant | triethylamine | 6.32 mmol, 0.87 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexylamine | 5.1 mmol, 502 mg | C1(CCCCC1)N | C6H13N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-cyclohexyl-2-fluoro-benzamide | 1.24 g, 98% | BrC1=CC(=C(C(=O)NC2CCCCC2)C=C1)F | C13H15BrFNO
